R1 (net20 net33) R=9.2E1
R2 ( net24 net20)  R=9.0E5
T3 ( net20 net8 vdd! vdd!)  pfet  L=2.78E-6 W=7.51E-6
T4 ( net1 net8 vdd! vdd!)  pfet  L=2.78E-6 W=7.51E-6
T5 ( net36 net20 net1 vdd!)  pfet  L=2.78E-6 W=7.51E-6
C6 (net5 net10) C=8.5E-5
R7 ( net41 net12)  R=5.3E4
T8 ( net12 net36 0 0)  nfet  L=2.05E-6 W=1.31E-6
T9 ( net27 net36 0 0)  nfet  L=2.05E-6 W=1.31E-6
T10 ( net23 net12 net27 0)  nfet  L=2.05E-6 W=1.31E-6
R11 (net26 vdd!) R=3.4E2
T12 (net15 net15 net15 0) nfet L=4.25E-6 W=7.87E-6
R13 (net39 net9) R=3.4E3
R14 (net35 net29) R=2.8E1
R15 (net26 vdd!) R=5.9E0
T16 (vdd! net18 net18 0) nfet L=6.05E-6 W=6.37E-6
T17 (net14 net17 net17 0) pfet L=1.17E-6 W=0.75E-6
R18 (net26 net6) R=1.5E5
C19 (net24 net32) C=8.7E-9
T20 (net11 net42 net42 0) pfet L=1.67E-6 W=5.76E-6
T21 (0 net33 net33 0) nfet L=9.99E-6 W=3.91E-6
C22 (net15 net9) C=6.7E-10
C23 (net11 net23) C=6.6E-6
R24 (net18 net34) R=5.0E2
R25 (net4 net15) R=6.4E1
T26 (0 net4 net4 0) pfet L=2.38E-6 W=9.80E-6
T27 (net33 net19 net19 0) pfet L=3.44E-6 W=9.00E-6
T28 (net25 net4 net4 0) nfet L=3.53E-6 W=3.78E-6
C29 (net23 0) C=6.4E-14
T30 (vdd! vdd! vdd! 0) pfet L=3.57E-6 W=7.52E-6
C31 (net24 net5) C=3.2E-7
T32 (net37 0 0 0) pfet L=7.68E-6 W=7.35E-6
R33 (net13 vdd!) R=0.9E4
R34 (0 net15) R=6.5E1
T35 (net25 net42 net42 0) nfet L=8.47E-6 W=2.79E-6
T36 (net25 net41 net41 0) pfet L=9.51E-6 W=5.25E-6
R37 (net6 net7) R=4.1E4
R38 (net3 net23) R=5.3E5
T39 (net37 net17 net17 0) pfet L=7.89E-6 W=9.55E-6

