T1 (net21 net39 net39 0) nfet L=4.46E-6 W=1.55E-6
R2 (net26 net31) R=9.6E5
C3 (net23 net37) C=8.1E-5
R4 ( net42 net28)  R=3.4E1
T5 ( net28 net28 0 0)  nfet  L=0.55E-6 W=4.11E-6
T6 ( net33 net28 0 0)  nfet  L=0.55E-6 W=4.11E-6
T7 (net2 net1 net1 0) pfet L=7.48E-6 W=4.69E-6
R8 ( net39 net33)  R=2.3E1
T9 ( net33 net1 vdd! vdd!)  pfet  L=9.29E-6 W=1.67E-6
T10 ( net34 net1 vdd! vdd!)  pfet  L=9.29E-6 W=1.67E-6
T11 ( net18 net33 net34 vdd!)  pfet  L=9.29E-6 W=1.67E-6
C12 (net9 net3) C=9.1E-5
R13 (net27 0) R=8.4E3
T14 (net15 net21 net21 0) nfet L=4.72E-6 W=3.69E-6
R15 (net17 net8) R=6.1E5
C16 (0 net5) C=2.2E-9
C17 (net30 0) C=6.6E-12
C18 (net38 net43) C=4.3E-5
T19 (vdd! net29 net29 0) nfet L=1.52E-6 W=5.31E-6
C20 (vdd! net41) C=0.3E-6
R21 (net29 net23) R=8.2E1
C22 (net10 net19) C=4.3E-10
T23 (net27 net25 net25 0) nfet L=9.70E-6 W=7.73E-6
R24 (net27 net24) R=8.5E0
T25 (net7 0 0 0) nfet L=5.43E-6 W=9.48E-6
R26 (net43 net40) R=9.8E6
T27 (net39 net32 net32 0) pfet L=2.45E-6 W=5.85E-6
T28 (net27 net20 net20 0) pfet L=7.66E-6 W=9.33E-6
T29 (net23 net29 net29 0) pfet L=4.97E-6 W=9.83E-6
T30 (net12 net42 net42 0) pfet L=5.30E-6 W=3.56E-6
T31 (net15 net2 net2 0) nfet L=7.31E-6 W=0.17E-6
T32 (net20 net18 net18 0) pfet L=9.34E-6 W=7.71E-6
T33 (net18 net42 net42 0) pfet L=0.24E-6 W=4.02E-6
R34 (net4 net23) R=5.2E4
R35 (net24 net2) R=6.3E6
T36 (net6 net42 net42 0) pfet L=2.54E-6 W=1.52E-6
C37 (net25 net17) C=3.0E-9
T38 (net2 net43 net43 0) nfet L=6.00E-6 W=0.15E-6
T39 (net31 net29 net29 0) nfet L=3.47E-6 W=9.29E-6
T40 (net29 net39 net39 0) pfet L=6.52E-6 W=7.27E-6
T41 (net13 net37 net37 0) nfet L=1.39E-6 W=3.56E-6
R42 (net7 net27) R=3.5E4
T43 (net14 net16 net16 0) nfet L=3.58E-6 W=1.10E-6
T44 (net11 net26 net26 0) pfet L=9.48E-6 W=8.28E-6
T45 (net43 net26 net26 0) pfet L=1.86E-6 W=1.55E-6
R46 (net30 net4) R=4.4E0
C47 (0 net22) C=7.8E-9
T48 (net6 vdd! vdd! 0) nfet L=6.31E-6 W=3.56E-6
C49 (net24 net10) C=5.1E-6
C50 (net25 net8) C=6.7E-14
T51 (net40 net13 net13 0) pfet L=6.63E-6 W=7.55E-6
R52 (net40 net27) R=5.0E0
C53 (net35 vdd!) C=2.4E-10
R54 (net25 net42) R=8.6E6
T55 (net40 net9 net9 0) pfet L=4.53E-6 W=0.51E-6
T56 (net31 net39 net39 0) pfet L=7.94E-6 W=3.35E-6
R57 (net21 net32) R=0.7E1
T58 (vdd! net8 net8 0) pfet L=1.13E-6 W=7.02E-6
R59 (net23 net6) R=6.2E4
T60 (vdd! net42 net42 0) pfet L=1.98E-6 W=9.84E-6
T61 (net11 net18 net18 0) pfet L=1.88E-6 W=1.06E-6
T62 (net14 net40 net40 0) nfet L=7.70E-6 W=5.69E-6
C63 (net13 net23) C=1.7E-10
T64 (vdd! net29 net29 0) nfet L=5.23E-6 W=0.35E-6
R65 (net21 net32) R=9.7E4
T66 (net25 net18 net18 0) pfet L=7.42E-6 W=9.96E-6
C67 (net29 net35) C=4.6E-9
T68 (net24 net20 net20 0) nfet L=8.33E-6 W=4.50E-6

