R1 ( net17 net19)  R=1.0E4
T2 ( net19 net10 0 0)  nfet  L=3.73E-6 W=3.96E-6
T3 ( net5 net10 0 0)  nfet  L=3.73E-6 W=3.96E-6
T4 ( net3 net19 net5 0)  nfet  L=3.73E-6 W=3.96E-6
T5 (net1 net9 net9 0) nfet L=2.98E-6 W=4.76E-6
T6 (net2 net4 net4 0) nfet L=2.57E-6 W=6.75E-6
R7 ( net17 net4)  R=8.7E1
T8 ( net4 net4 vdd! vdd!)  pfet  L=4.73E-6 W=5.39E-6
T9 ( net1 net4 vdd! vdd!)  pfet  L=4.73E-6 W=5.39E-6
C10 (net14 net7) C=0.5E-7
R11 (net1 net6) R=8.0E5
T12 (net18 net11 net11 0) nfet L=9.21E-6 W=4.02E-6
R13 (0 net17) R=9.0E3
T14 (net14 net12 net12 0) nfet L=9.49E-6 W=9.15E-6
R15 (net7 net17) R=5.3E2

