R1 ( net57 net64)  R=3.0E6
T2 ( net64 net52 vdd! vdd!)  pfet  L=3.76E-6 W=6.45E-6
T3 ( net56 net52 vdd! vdd!)  pfet  L=3.76E-6 W=6.45E-6
T4 ( 0 net64 net52 vdd!)  pfet  L=3.76E-6 W=6.45E-6
R5 (net14 net13) R=6.5E0
T6 (net71 net60 net60 0) nfet L=6.29E-6 W=7.47E-6
R7 (net55 net25) R=2.9E5
T8 (0 net55 net55 0) nfet L=4.30E-6 W=4.88E-6
R9 ( net32 net15)  R=4.3E6
T10 ( net15 net15 net21 vdd!)  pfet  L=4.36E-6 W=3.03E-6
T11 ( net21 net25 vdd! vdd!)  pfet  L=4.36E-6 W=3.03E-6
T12 ( net25 net25 vdd! vdd!)  pfet  L=4.36E-6 W=3.03E-6
T13 ( net71 net15 net25 vdd!)  pfet  L=4.36E-6 W=3.03E-6
T14 (vdd! net9 net9 0) pfet L=1.33E-6 W=9.94E-6
R15 (net16 net42) R=9.6E1
T16 (net26 net23 net23 0) nfet L=4.06E-6 W=5.18E-6
T17 (0 net29 net29 0) pfet L=3.36E-6 W=2.97E-6
T18 (net71 net67 net67 0) nfet L=8.47E-6 W=9.43E-6
C19 (net38 net55) C=7.9E-11
C20 (net3 net23) C=4.0E-12
C21 (net16 net29) C=7.5E-9
T22 (net19 net35 net35 0) nfet L=4.15E-6 W=2.36E-6
C23 (vdd! net41) C=3.1E-11
R24 (vdd! net23) R=3.7E1
T25 (net32 vdd! vdd! 0) pfet L=9.47E-6 W=3.93E-6
R26 (net49 net19) R=3.1E4
T27 (net6 net51 net51 0) nfet L=6.69E-6 W=9.75E-6
T28 (net5 net44 net44 0) nfet L=4.99E-6 W=4.58E-6
T29 (net12 net66 net66 0) pfet L=1.83E-6 W=0.51E-6
C30 (net51 net41) C=8.0E-9
C31 (net59 net24) C=9.5E-12
T32 (net27 net3 net3 0) pfet L=8.68E-6 W=8.21E-6
T33 (net14 net66 net66 0) nfet L=8.76E-6 W=8.13E-6
T34 (net54 net8 net8 0) nfet L=8.53E-6 W=6.34E-6
T35 (net47 net49 net49 0) pfet L=9.61E-6 W=6.68E-6
C36 (net35 net39) C=1.2E-8
C37 (net48 net8) C=5.2E-6
T38 (vdd! net56 net56 0) pfet L=2.95E-6 W=9.31E-6
T39 (net37 net12 net12 0) pfet L=0.92E-6 W=2.61E-6
T40 (net54 net20 net20 0) pfet L=2.74E-6 W=9.44E-6
T41 (0 net9 net9 0) nfet L=2.64E-6 W=1.30E-6
T42 (net4 net68 net68 0) nfet L=5.31E-6 W=5.59E-6
C43 (net48 net69) C=9.0E-13
T44 (net13 net28 net28 0) pfet L=0.13E-6 W=3.51E-6
R45 (net60 net54) R=8.5E1
T46 (net27 net56 net56 0) nfet L=4.76E-6 W=0.51E-6
R47 (0 net36) R=1.6E6
T48 (net48 net18 net18 0) nfet L=5.84E-6 W=1.56E-6
T49 (net11 net17 net17 0) nfet L=7.69E-6 W=9.44E-6
C50 (vdd! net32) C=2.5E-8
T51 (net13 net62 net62 0) nfet L=3.96E-6 W=0.19E-6
R52 (net60 net9) R=8.1E6
T53 (net56 net19 net19 0) pfet L=9.39E-6 W=5.73E-6
T54 (net61 net71 net71 0) nfet L=6.74E-6 W=8.62E-6
T55 (net19 net17 net17 0) pfet L=7.77E-6 W=2.73E-6
C56 (net38 net40) C=0.1E-8
T57 (net39 net48 net48 0) nfet L=2.31E-6 W=2.01E-6
C58 (net68 net61) C=2.2E-9
C59 (net36 net50) C=8.5E-9
R60 (0 net37) R=2.8E3
C61 (net71 net38) C=4.6E-5
T62 (net59 net50 net50 0) pfet L=7.17E-6 W=1.13E-6
T63 (net51 net62 net62 0) pfet L=8.24E-6 W=1.36E-6
T64 (net16 net58 net58 0) nfet L=8.51E-6 W=2.39E-6
C65 (net53 net56) C=4.4E-10
T66 (net47 0 0 0) pfet L=0.14E-6 W=3.65E-6
R67 (net49 net11) R=9.6E5
T68 (net10 net3 net3 0) nfet L=4.17E-6 W=4.71E-6
T69 (net71 net55 net55 0) pfet L=5.22E-6 W=6.25E-6
R70 (net70 net18) R=6.1E4
R71 (net22 net65) R=1.5E4
C72 (net48 net45) C=7.3E-8
R73 (net5 net39) R=3.1E5
T74 (net48 net7 net7 0) nfet L=4.76E-6 W=7.00E-6
C75 (net50 net48) C=1.3E-6
T76 (net61 net70 net70 0) nfet L=7.95E-6 W=3.53E-6
C77 (net13 net2) C=1.9E-5
C78 (net20 net41) C=2.0E-11
C79 (net20 net68) C=7.1E-8
T80 (net28 net22 net22 0) pfet L=4.19E-6 W=7.15E-6
T81 (net62 net48 net48 0) pfet L=2.18E-6 W=5.50E-6
C82 (net28 net57) C=4.7E-5
T83 (net32 net69 net69 0) pfet L=0.39E-6 W=3.39E-6
C84 (vdd! net6) C=2.0E-8
T85 (net32 0 0 0) nfet L=7.22E-6 W=1.18E-6
T86 (net6 net7 net7 0) pfet L=1.09E-6 W=9.72E-6
T87 (net63 net36 net36 0) pfet L=5.53E-6 W=1.86E-6
T88 (net36 net17 net17 0) nfet L=8.07E-6 W=4.53E-6
C89 (net2 0) C=7.7E-12
R90 (net2 net41) R=7.0E1
T91 (net34 net27 net27 0) pfet L=9.80E-6 W=4.78E-6
T92 (net46 net2 net2 0) nfet L=7.69E-6 W=5.42E-6
T93 (net29 net65 net65 0) pfet L=0.86E-6 W=2.16E-6
C94 (net12 net7) C=8.0E-13
C95 (net68 net36) C=5.2E-8
T96 (net57 net37 net37 0) pfet L=7.18E-6 W=6.66E-6
C97 (net42 net57) C=1.0E-10
T98 (net23 net23 net23 0) pfet L=3.32E-6 W=2.17E-6
R99 (net4 net19) R=0.2E6
T100 (net29 net63 net63 0) pfet L=6.76E-6 W=9.48E-6
R101 (0 net69) R=1.4E0
C102 (net30 0) C=4.8E-9
R103 (net26 vdd!) R=6.8E1
R104 (net29 net39) R=1.9E4
C105 (net46 net2) C=5.1E-11
C106 (net6 net42) C=2.0E-9
C107 (net26 net35) C=3.3E-9
C108 (net38 net40) C=8.5E-5

