T1 (net12 net3 net3 0) pfet L=6.86E-6 W=5.91E-6
R2 (net5 0) R=4.9E3
T3 (net12 net12 net12 0) nfet L=6.67E-6 W=7.54E-6
R4 (net15 0) R=6.6E5
R5 ( net4 net1)  R=9.0E5
T6 ( net1 net1 0 0)  nfet  L=2.79E-6 W=0.21E-6
T7 ( net4 net1 0 0)  nfet  L=2.79E-6 W=0.21E-6
T8 (net9 net7 net7 0) pfet L=9.65E-6 W=2.12E-6
R9 (net16 net5) R=7.3E3
R10 (net17 net8) R=3.2E2
R11 ( 0 net6)  R=0.5E4
T12 ( net6 net6 net13 0)  nfet  L=5.42E-6 W=5.51E-6
T13 ( net13 net3 0 0)  nfet  L=5.42E-6 W=5.51E-6
T14 ( net3 net3 0 0)  nfet  L=5.42E-6 W=5.51E-6
T15 ( 0 net6 net3 0)  nfet  L=5.42E-6 W=5.51E-6
R16 (net10 net9) R=4.2E2
T17 (net16 vdd! vdd! 0) nfet L=1.83E-6 W=3.26E-6
T18 (net17 net5 net5 0) nfet L=1.01E-6 W=2.81E-6
R19 (net2 net14) R=1.9E0
R20 (net4 vdd!) R=0.1E5
R21 (net4 net14) R=3.1E6
R22 (net15 net5) R=9.7E4
R23 (net15 net8) R=8.7E3
R24 (net8 0) R=2.9E3
C25 (net16 net18) C=8.4E-8
R26 (net7 net8) R=7.9E6

