R1 ( net2 net16)  R=1.4E2
T2 ( net16 net16 0 0)  nfet  L=6.39E-6 W=6.09E-6
T3 ( net27 net16 0 0)  nfet  L=6.39E-6 W=6.09E-6
R4 (net4 net30) R=9.9E3
T5 (net14 net24 net24 0) pfet L=8.91E-6 W=2.51E-6
R6 ( net21 net29)  R=5.8E1
T7 ( net29 net29 0 0)  nfet  L=5.69E-6 W=9.26E-6
T8 ( net6 net29 0 0)  nfet  L=5.69E-6 W=9.26E-6
R9 (net5 net28) R=2.7E1
T10 (net22 net17 net17 0) nfet L=1.56E-6 W=8.10E-6
R11 (net9 net30) R=2.3E3
T12 (net27 vdd! vdd! 0) pfet L=3.25E-6 W=5.82E-6
C13 (net2 net4) C=8.6E-14
T14 (net27 net33 net33 0) nfet L=9.16E-6 W=9.51E-6
C15 (net28 net13) C=7.3E-11
T16 (net6 net14 net14 0) nfet L=5.40E-6 W=7.32E-6
R17 (net31 net23) R=9.7E4
C18 (net12 net22) C=9.4E-11
R19 (net1 net11) R=6.4E4
T20 (net5 net5 net5 0) nfet L=7.47E-6 W=4.38E-6
C21 (net1 net24) C=9.1E-14
T22 (net22 net11 net11 0) nfet L=4.65E-6 W=6.35E-6
C23 (net13 net15) C=7.0E-5
C24 (net8 net21) C=8.0E-13
T25 (net18 net17 net17 0) nfet L=5.36E-6 W=1.41E-6
T26 (net4 net5 net5 0) nfet L=9.22E-6 W=0.92E-6
T27 (net20 net24 net24 0) nfet L=8.51E-6 W=8.14E-6
C28 (net22 net27) C=3.2E-13
T29 (net32 net1 net1 0) pfet L=3.55E-6 W=9.68E-6
T30 (net17 net11 net11 0) nfet L=9.17E-6 W=4.76E-6
R31 (net3 net1) R=0.2E1
R32 (net28 net24) R=0.6E2
T33 (net27 net17 net17 0) pfet L=2.96E-6 W=9.39E-6
T34 (net33 0 0 0) nfet L=4.77E-6 W=5.07E-6
R35 (net15 net30) R=7.7E3
R36 (0 vdd!) R=1.1E4
C37 (net31 vdd!) C=0.6E-13
R38 (net26 net4) R=4.7E0
T39 (net21 net26 net26 0) nfet L=9.39E-6 W=8.18E-6
T40 (net34 net1 net1 0) nfet L=1.92E-6 W=0.71E-6
T41 (net14 net28 net28 0) nfet L=6.90E-6 W=9.92E-6
T42 (net21 net27 net27 0) nfet L=3.30E-6 W=7.30E-6
C43 (0 net3) C=4.9E-10
C44 (net4 net31) C=5.5E-13
T45 (vdd! net4 net4 0) pfet L=3.41E-6 W=6.75E-6
T46 (net31 net33 net33 0) nfet L=2.13E-6 W=4.24E-6
R47 (net20 net24) R=1.9E0
R48 (net35 net33) R=2.5E4
T49 (net21 net15 net15 0) pfet L=6.30E-6 W=6.35E-6
T50 (net35 net15 net15 0) nfet L=5.92E-6 W=1.66E-6
C51 (net28 0) C=1.0E-5
R52 (net6 net19) R=6.4E6
T53 (net3 net23 net23 0) pfet L=6.81E-6 W=3.85E-6
T54 (net2 net8 net8 0) nfet L=3.29E-6 W=8.77E-6
C55 (net17 net21) C=8.2E-6

