T1 ( net57 net57 vdd! vdd!)  pfet  L=3.16E-6 W=8.11E-6
T2 ( net14 net57 vdd! vdd!)  pfet  L=3.16E-6 W=8.11E-6
R3 ( net14 net53)  R=7.0E0
C4 (net20 net1) C=2.3E-8
C5 (net42 net21) C=1.7E-12
R6 ( net29 net53)  R=0.5E4
T7 ( net53 net56 vdd! vdd!)  pfet  L=4.10E-6 W=0.58E-6
T8 ( net18 net56 vdd! vdd!)  pfet  L=4.10E-6 W=0.58E-6
T9 ( net2 net53 net18 vdd!)  pfet  L=4.10E-6 W=0.58E-6
T10 (net11 net35 net35 0) pfet L=5.54E-6 W=5.11E-6
T11 (net49 0 0 0) pfet L=0.36E-6 W=9.15E-6
T12 (0 net26 net26 0) nfet L=9.62E-6 W=5.21E-6
C13 (vdd! net10) C=7.2E-9
C14 (net27 net24) C=1.7E-9
C15 (net50 net39) C=5.7E-5
T16 (net47 vdd! vdd! 0) pfet L=0.34E-6 W=9.58E-6
T17 (net3 net27 net27 0) pfet L=2.75E-6 W=9.27E-6
C18 (net15 net47) C=2.4E-8
C19 (net35 net13) C=0.1E-9
C20 (net54 vdd!) C=0.9E-8
R21 (net55 net52) R=8.7E0
C22 (net41 net17) C=1.7E-6
R23 (net41 net25) R=6.1E2
R24 (net3 net16) R=8.3E2
T25 (net45 net7 net7 0) pfet L=8.32E-6 W=3.69E-6
T26 (net19 net55 net55 0) pfet L=8.42E-6 W=4.84E-6
R27 (net42 net10) R=1.9E0
T28 (net36 net57 net57 0) pfet L=2.49E-6 W=3.85E-6
T29 (net3 net13 net13 0) pfet L=7.54E-6 W=2.82E-6
C30 (net32 net29) C=3.6E-6
T31 (net35 net31 net31 0) nfet L=4.34E-6 W=7.62E-6
R32 (net11 net2) R=4.6E4
C33 (net41 0) C=3.1E-11
T34 (net20 net1 net1 0) pfet L=6.71E-6 W=5.62E-6
T35 (net42 net39 net39 0) pfet L=2.66E-6 W=4.88E-6
T36 (0 net17 net17 0) nfet L=1.36E-6 W=9.24E-6
R37 (net13 net34) R=6.3E3
C38 (net12 net24) C=0.6E-13
T39 (net5 net47 net47 0) nfet L=5.08E-6 W=5.71E-6
T40 (net17 net21 net21 0) pfet L=9.45E-6 W=7.11E-6
R41 (net16 net28) R=4.1E1
T42 (net38 net52 net52 0) nfet L=5.82E-6 W=2.85E-6
C43 (net30 net50) C=6.8E-5
T44 (net21 net19 net19 0) pfet L=5.42E-6 W=7.48E-6
C45 (net3 net54) C=6.8E-7
R46 (net4 net24) R=4.4E2
T47 (net33 net37 net37 0) nfet L=3.02E-6 W=4.47E-6
C48 (net3 net31) C=1.3E-14
T49 (net5 net6 net6 0) pfet L=8.27E-6 W=2.67E-6
T50 (net47 net47 net47 0) pfet L=2.45E-6 W=3.77E-6
T51 (net16 net29 net29 0) pfet L=1.55E-6 W=6.89E-6
T52 (net30 net5 net5 0) pfet L=9.71E-6 W=5.69E-6
T53 (net5 net17 net17 0) pfet L=9.14E-6 W=6.74E-6
C54 (net31 net52) C=3.5E-11
T55 (net8 net38 net38 0) pfet L=1.48E-6 W=6.33E-6
T56 (net38 net10 net10 0) pfet L=5.67E-6 W=8.35E-6
T57 (net48 net46 net46 0) pfet L=2.30E-6 W=0.60E-6
T58 (net47 net20 net20 0) nfet L=2.50E-6 W=5.79E-6
T59 (net34 net11 net11 0) nfet L=2.02E-6 W=7.64E-6
T60 (net57 net42 net42 0) nfet L=8.31E-6 W=1.53E-6
C61 (net54 net27) C=5.8E-11
T62 (net45 net48 net48 0) pfet L=8.79E-6 W=4.78E-6
T63 (net24 net55 net55 0) nfet L=4.26E-6 W=0.97E-6
T64 (net47 net8 net8 0) nfet L=2.77E-6 W=3.39E-6
T65 (net39 net24 net24 0) nfet L=4.45E-6 W=0.52E-6
R66 (net39 net57) R=7.4E6
T67 (net9 net8 net8 0) nfet L=9.35E-6 W=7.85E-6
T68 (net1 net6 net6 0) pfet L=3.16E-6 W=4.61E-6
T69 (net22 net28 net28 0) nfet L=2.82E-6 W=7.45E-6
R70 (net10 net37) R=9.2E1
C71 (net10 net52) C=0.3E-10
C72 (net12 net50) C=5.9E-7
T73 (net27 net31 net31 0) pfet L=0.84E-6 W=3.94E-6
T74 (net8 net51 net51 0) pfet L=4.34E-6 W=8.08E-6
C75 (net42 net32) C=2.4E-5
C76 (net1 net3) C=1.8E-5
C77 (net28 net1) C=0.6E-12
C78 (net33 net31) C=1.4E-7
C79 (net40 net34) C=7.9E-14
R80 (net10 net3) R=4.1E3
T81 (net54 net16 net16 0) nfet L=8.05E-6 W=7.95E-6
T82 (net22 net40 net40 0) pfet L=1.97E-6 W=4.03E-6
T83 (net3 net3 net3 0) nfet L=6.75E-6 W=9.78E-6
R84 (net27 net5) R=3.9E2
C85 (net25 net12) C=9.3E-6
T86 (net2 net57 net57 0) nfet L=2.33E-6 W=3.49E-6
T87 (net41 net20 net20 0) pfet L=0.14E-6 W=1.58E-6
R88 (net23 net21) R=5.4E6
T89 (net19 net52 net52 0) nfet L=4.80E-6 W=1.50E-6
T90 (vdd! net57 net57 0) pfet L=8.10E-6 W=3.46E-6
R91 (net31 net3) R=1.2E5
R92 (0 net2) R=2.3E1
T93 (net10 net41 net41 0) nfet L=5.72E-6 W=9.19E-6
R94 (net47 net22) R=1.2E5
R95 (net13 0) R=9.0E2
T96 (net21 net54 net54 0) pfet L=9.50E-6 W=0.55E-6
T97 (net44 net31 net31 0) pfet L=3.37E-6 W=9.49E-6
T98 (net7 net30 net30 0) nfet L=8.90E-6 W=5.27E-6
R99 (net37 net7) R=0.4E1

