R1 ( net14 net8)  R=2.0E6
T2 ( net8 net12 0 0)  nfet  L=3.37E-6 W=9.05E-6
T3 ( net17 net12 0 0)  nfet  L=3.37E-6 W=9.05E-6
T4 ( vdd! net8 net12 0)  nfet  L=3.37E-6 W=9.05E-6
R5 (net5 net2) R=4.2E2
R6 (net7 net6) R=10.0E3
C7 (net11 0) C=3.6E-11
R8 (net2 net4) R=0.3E0
R9 ( net18 net4)  R=8.3E6
T10 ( net4 net17 0 0)  nfet  L=2.01E-6 W=4.35E-6
T11 ( net2 net17 0 0)  nfet  L=2.01E-6 W=4.35E-6
T12 ( vdd! net4 net17 0)  nfet  L=2.01E-6 W=4.35E-6
C13 (net10 net1) C=5.9E-7
T14 (net10 net10 net10 0) nfet L=4.37E-6 W=7.28E-6
C15 (net15 net14) C=0.6E-12
R16 (net15 net7) R=3.7E1
T17 (net1 net3 net3 0) nfet L=6.14E-6 W=7.27E-6
T18 (net10 net2 net2 0) nfet L=2.90E-6 W=8.13E-6
T19 (net5 vdd! vdd! 0) nfet L=0.20E-6 W=8.63E-6
C20 (net5 net6) C=3.2E-7
T21 (net13 net15 net15 0) nfet L=9.26E-6 W=3.63E-6

