R1 ( net5 net6)  R=5.6E1
T2 ( net6 net17 0 0)  nfet  L=6.04E-6 W=8.59E-6
T3 ( net5 net17 0 0)  nfet  L=6.04E-6 W=8.59E-6
T4 ( vdd! net6 net17 0)  nfet  L=6.04E-6 W=8.59E-6
R5 (net10 net14) R=3.8E4
T6 (net13 net9 net9 0) pfet L=6.45E-6 W=3.80E-6
R7 ( net14 net3)  R=3.3E2
T8 ( net3 net3 vdd! vdd!)  pfet  L=9.95E-6 W=0.30E-6
T9 ( net10 net3 vdd! vdd!)  pfet  L=9.95E-6 W=0.30E-6
T10 (vdd! vdd! vdd! 0) nfet L=8.87E-6 W=9.33E-6
T11 (net4 net4 net4 0) nfet L=2.07E-6 W=7.53E-6
R12 (vdd! net4) R=6.5E4
T13 (net2 net12 net12 0) nfet L=2.93E-6 W=2.72E-6
T14 (net5 net16 net16 0) pfet L=6.74E-6 W=0.63E-6
T15 (net14 net12 net12 0) pfet L=7.03E-6 W=0.10E-6
C16 (net10 net13) C=6.2E-9
T17 (net5 net8 net8 0) nfet L=3.19E-6 W=9.47E-6
R18 (net1 net14) R=4.6E2
T19 (0 net11 net11 0) pfet L=3.90E-6 W=2.76E-6
C20 (net13 net4) C=3.6E-7
R21 (net1 net10) R=0.1E2
T22 (net16 0 0 0) nfet L=4.98E-6 W=6.37E-6
C23 (vdd! net11) C=5.9E-6
R24 (net1 net8) R=7.2E4
R25 (net13 net9) R=2.4E2
R26 (vdd! net10) R=5.4E1
C27 (net4 net1) C=3.9E-7
T28 (net9 0 0 0) pfet L=4.13E-6 W=7.82E-6
C29 (net14 net8) C=1.7E-6
T30 (net4 net1 net1 0) pfet L=3.27E-6 W=4.54E-6
T31 (vdd! net1 net1 0) nfet L=3.77E-6 W=4.22E-6
R32 (net16 net11) R=4.8E1
T33 (net1 net9 net9 0) nfet L=3.10E-6 W=9.30E-6
C34 (net14 net8) C=8.4E-8
T35 (net5 net9 net9 0) nfet L=8.63E-6 W=7.18E-6
T36 (net8 net12 net12 0) nfet L=5.53E-6 W=8.65E-6
C37 (net5 net4) C=0.4E-8
R38 (net5 net12) R=2.0E0
R39 (net5 net1) R=8.2E5
T40 (0 net5 net5 0) nfet L=9.84E-6 W=4.07E-6
T41 (net1 net14 net14 0) nfet L=8.12E-6 W=1.59E-6
T42 (net10 net16 net16 0) pfet L=5.78E-6 W=7.89E-6
R43 (net1 net4) R=7.8E5
T44 (net5 net2 net2 0) nfet L=9.28E-6 W=6.11E-6
C45 (net16 net4) C=6.8E-5
T46 (0 net14 net14 0) nfet L=2.03E-6 W=6.97E-6
T47 (net5 net13 net13 0) pfet L=1.41E-6 W=8.28E-6
T48 (net5 net14 net14 0) pfet L=5.05E-6 W=8.60E-6
C49 (net8 net11) C=2.2E-8
T50 (net1 net9 net9 0) pfet L=7.98E-6 W=6.91E-6
T51 (0 net9 net9 0) nfet L=3.87E-6 W=4.10E-6
T52 (net16 net11 net11 0) pfet L=9.16E-6 W=7.37E-6
T53 (net4 0 0 0) pfet L=7.31E-6 W=2.76E-6
T54 (net8 net14 net14 0) nfet L=9.59E-6 W=3.00E-6
T55 (net16 net9 net9 0) nfet L=7.81E-6 W=8.00E-6
R56 (net4 vdd!) R=0.2E1
C57 (net14 net1) C=3.1E-7
T58 (net1 0 0 0) pfet L=5.01E-6 W=3.02E-6
C59 (net13 net10) C=2.6E-5
T60 (net8 net9 net9 0) pfet L=3.39E-6 W=0.13E-6
T61 (net16 net5 net5 0) nfet L=0.49E-6 W=7.48E-6
T62 (net11 0 0 0) nfet L=9.49E-6 W=1.46E-6

