R1 ( net4 net2)  R=9.4E6
T2 ( net2 net2 net3 vdd!)  pfet  L=3.86E-6 W=4.30E-6
T3 ( net3 net5 vdd! vdd!)  pfet  L=3.86E-6 W=4.30E-6
T4 ( net5 net5 vdd! vdd!)  pfet  L=3.86E-6 W=4.30E-6
T5 ( net7 net2 net5 vdd!)  pfet  L=3.86E-6 W=4.30E-6
R6 (net4 net11) R=5.8E4
C7 (net10 net8) C=9.2E-11
T8 (net1 net6 net6 0) pfet L=9.86E-6 W=6.69E-6
T9 (net6 net1 net1 0) pfet L=0.51E-6 W=1.32E-6

