R1 ( 0 net2)  R=9.8E3
T2 ( net2 net25 0 0)  nfet  L=8.61E-6 W=3.57E-6
T3 ( net23 net25 0 0)  nfet  L=8.61E-6 W=3.57E-6
T4 ( net22 net2 net23 0)  nfet  L=8.61E-6 W=3.57E-6
T5 (net17 net16 net16 0) nfet L=0.16E-6 W=8.57E-6
R6 ( net1 net5)  R=4.9E0
T7 ( net5 net24 vdd! vdd!)  pfet  L=6.04E-6 W=1.38E-6
T8 ( net10 net24 vdd! vdd!)  pfet  L=6.04E-6 W=1.38E-6
T9 ( 0 net5 net24 vdd!)  pfet  L=6.04E-6 W=1.38E-6
C10 (net12 net29) C=8.0E-8
T11 (net22 net15 net15 0) pfet L=9.05E-6 W=4.70E-6
T12 (net8 net21 net21 0) pfet L=2.33E-6 W=1.68E-6
C13 (net22 net3) C=9.7E-10
C14 (0 net12) C=7.7E-7
R15 (net10 net28) R=9.3E5
R16 (net11 vdd!) R=9.6E2
T17 (net26 net16 net16 0) pfet L=2.36E-6 W=3.01E-6
T18 (net11 vdd! vdd! 0) nfet L=3.09E-6 W=7.42E-6
T19 (net21 net29 net29 0) nfet L=3.62E-6 W=0.64E-6
R20 (net15 0) R=9.6E2
C21 (net11 net26) C=5.4E-9
C22 (net9 net12) C=4.4E-9
C23 (net12 0) C=1.7E-13
T24 (net1 net22 net22 0) nfet L=1.76E-6 W=3.49E-6
T25 (net27 net15 net15 0) pfet L=6.23E-6 W=4.21E-6
R26 (net16 net10) R=7.3E5
T27 (net17 net7 net7 0) pfet L=6.49E-6 W=4.13E-6
R28 (net1 net22) R=4.9E3
T29 (net27 net22 net22 0) nfet L=6.62E-6 W=9.81E-6
C30 (0 net17) C=9.8E-13
T31 (net16 net20 net20 0) pfet L=8.77E-6 W=2.92E-6
C32 (net4 net12) C=3.2E-13
T33 (net26 net15 net15 0) pfet L=1.14E-6 W=8.97E-6
R34 (net8 net7) R=1.0E1
T35 (net21 net19 net19 0) nfet L=3.98E-6 W=0.30E-6
T36 (net29 net4 net4 0) pfet L=2.46E-6 W=7.43E-6
T37 (net7 net17 net17 0) pfet L=3.15E-6 W=7.57E-6
T38 (net16 net8 net8 0) nfet L=8.42E-6 W=7.91E-6
T39 (net13 net20 net20 0) pfet L=4.71E-6 W=4.54E-6
T40 (net12 net10 net10 0) nfet L=4.04E-6 W=8.67E-6
T41 (net26 net21 net21 0) nfet L=0.77E-6 W=0.55E-6
R42 (vdd! 0) R=3.3E2
R43 (net21 net13) R=0.4E2
R44 (net14 net18) R=4.3E6
T45 (net4 net10 net10 0) nfet L=1.02E-6 W=3.25E-6
R46 (net17 net10) R=1.2E3
C47 (net4 net29) C=9.6E-11
T48 (net21 net8 net8 0) pfet L=7.36E-6 W=2.00E-6
T49 (net21 net10 net10 0) pfet L=0.86E-6 W=8.11E-6
T50 (net6 net3 net3 0) pfet L=9.95E-6 W=7.46E-6
T51 (net12 net7 net7 0) nfet L=7.92E-6 W=5.78E-6
C52 (net27 net15) C=9.0E-13
C53 (net8 net18) C=0.9E-7
T54 (net18 net12 net12 0) pfet L=5.85E-6 W=0.75E-6
C55 (net26 net3) C=5.9E-11
T56 (net3 net10 net10 0) pfet L=2.75E-6 W=5.15E-6
C57 (net19 net18) C=0.8E-10
T58 (net6 vdd! vdd! 0) pfet L=0.42E-6 W=7.86E-6
R59 (net12 net16) R=6.7E2
T60 (net28 net8 net8 0) nfet L=8.93E-6 W=9.58E-6
C61 (net15 net14) C=1.9E-7

