C1 (net7 net6) C=2.0E-5
C2 (net15 net10) C=8.3E-5
R3 ( net5 net2)  R=3.3E6
T4 ( net2 net13 0 0)  nfet  L=5.33E-6 W=6.26E-6
T5 ( net2 net13 0 0)  nfet  L=5.33E-6 W=6.26E-6
T6 ( vdd! net2 net13 0)  nfet  L=5.33E-6 W=6.26E-6
C7 (net1 net16) C=9.1E-11
R8 (net8 net6) R=9.7E2
T9 (net1 net12 net12 0) nfet L=5.16E-6 W=6.84E-6
R10 ( net16 net3)  R=6.2E1
T11 ( net3 net3 vdd! vdd!)  pfet  L=8.95E-6 W=8.69E-6
T12 ( net14 net3 vdd! vdd!)  pfet  L=8.95E-6 W=8.69E-6
R13 (net12 net8) R=8.2E1
T14 (net10 net12 net12 0) nfet L=0.87E-6 W=0.44E-6
R15 (vdd! 0) R=0.2E2
T16 (net14 vdd! vdd! 0) pfet L=1.93E-6 W=8.93E-6
C17 (net4 net5) C=9.5E-6
T18 (net4 net14 net14 0) nfet L=6.49E-6 W=2.49E-6
C19 (0 net16) C=9.5E-14
T20 (net14 net14 net14 0) pfet L=1.78E-6 W=4.22E-6
T21 (net9 net10 net10 0) nfet L=6.78E-6 W=2.49E-6
T22 (vdd! net7 net7 0) pfet L=8.21E-6 W=8.46E-6
T23 (0 net6 net6 0) nfet L=7.68E-6 W=7.08E-6
T24 (net10 net4 net4 0) nfet L=0.76E-6 W=6.05E-6
T25 (net7 net4 net4 0) nfet L=6.51E-6 W=1.58E-6
R26 (net9 net7) R=9.4E1
T27 (net9 net10 net10 0) pfet L=9.00E-6 W=3.24E-6
R28 (net9 net14) R=9.3E5

